US05212195
A mixture of sodium hydride (0.32 g) in DMF (50 ml) was cooled in an ice bath. A solution of 2-(p-bromophenylmethyl)-indole (2.0 g), prepared, e.g., as described in Preparation 3, in DMF, was added, and the mixture stirred for 10 minutes. 1-Iodobutane (0.9 ml) in DMF was added dropwise, and the mixture stirred for 30 minutes. It was then poured into cold dilute HCl and extracted with ether. The extract was washed three times with cold water, dried over magnesium sulphate, and the solvent evaporated to afford an orange-red oil, 1-(n-butyl)-2-(p-bromophenylmethyl)indole (2.5 g), a compound of Formula (H).

reactant | sodium hydride | 0.32 g | [H-].[Na+]
reactant | 2-(p-bromophenylmethyl)-indole | 2.0 g | BrC1=CC=C(C=C1)CC=1NC2=CC=CC=C2C1 | C15H12BrN
reactant | 1-Iodobutane | 0.9 ml | ICCCC | C4H9I
reactant | HCl | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-(n-butyl)-2-(p-bromophenylmethyl)indole | 2.5 g | C(CCC)N1C(=CC2=CC=CC=C12)CC1=CC=C(C=C1)Br | C19H20BrN
